US08580777B2
B. (S)-1-Allyloxymethyl-2-methylpropylamine
1.25 g (60%, 31.36 mmol) of sodium hydride were added to a solution of 3.00 g (15.68 mmol) of (S)-3-methyl-2-{[1-phenylmethylidene]amino}butan-1-ol in 28 ml of dry THF, and the mixture was stirred at RT for 45 min. Then 1.43 ml (16.46 mmol) of allyl bromide were added, and the mixture was stirred further at RT overnight. 20 ml of methanol were added to quench, and the mixture was acidified (pH 1) with 1N hydrochoric acid and stirred further. After 3 h, the reaction mixture was washed twice with dichloromethane, and the combined dichloromethane phases were extracted with 1N hydrochloric acid. The combined aqueous phases were basified with 1N sodium hydroxide solution (pH 14), saturated with sodium chloride and extracted three times with ethyl acetate, readjusting the pH after each extraction step. The combined organic phases were dried over sodium sulfate, filtered and concentrated, and taken up once in dichloromethane and again concentrated. 1.56 g of the title compound were obtained as a pale yellow liquid.

reactant | sodium hydride | 31.36 mmol, 1.25 g | [H-].[Na+]
reactant | (S)-3-methyl-2-{[1-phenylmethylidene]amino}butan-1-ol | 15.68 mmol, 3.00 g | CC([C@@H](CO)N=CC1=CC=CC=C1)C | C12H17NO
reactant | allyl bromide | 16.46 mmol, 1.43 ml | C(C=C)Br | C3H5Br
reactant | methanol | 20 ml | CO | CH4O
solvent | THF | 28 ml | C1CCOC1 | C4H8O
product | (S)-1-Allyloxymethyl-2-methylpropylamine | 1.56 g | C(C=C)OC[C@H](C(C)C)N | C8H17NO
